US06599917B1
a) Benzyl Chloromethyl Ketone
100 ml of anhydrous diethyl ether was added to 12.4 g of magnesium (used for the synthesis of a Grignard's reagent), to which were then added dropwise a mixture of 45 ml of benzyl bromide and 50 ml of an ether anhydride by using a dropping funnel over 30 minutes in a nitrogen atmosphere in a manner that the solution was mildly refluxed. This diethyl ether solution of benzylmagnesium bromide was added dropwise to a mixture of 40 ml of chloroacetyl chloride, 778 mg of cuprous iodide and 100 ml of tetrahydrofuran by using a dropping funnel over 2 hours in a nitrogen atmosphere such that the system temperature was kept at −60° C. After the addition was completed, the mixture was further stirred for 2.5 hours. Then, an aqueous saturated ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 1-3% ethyl acetate/hexane as an eluent for separation and purification, to give 20.4 g of the target compound.

reactant | magnesium | 12.4 g | [Mg] | Mg
reactant | benzyl bromide | 45 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
reactant | chloroacetyl chloride | 40 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Benzyl Chloromethyl Ketone | 20.4 g | ClCC(=O)CC1=CC=CC=C1 | C9H9ClO
